US06355662B1
B. 3-[3-(3-Methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-isoxazol-5-yl]-propionic acid methyl ester
To a stirred solution of [4-(3-o-tolyl-ureido)-phenyl]-acetic acid (305 mg, 1.07 mmol), DIEA (1.3 ml), HOBT (120 mg, 0.89 mmol) and EDCI (170 mg, 0.89 mmol) in CH2Cl2 (8 ml) at room temperature was added a solution of 3-[3-(1-amino-3-methyl-butyl)-isoxazol-5-yl]-propionic acid methyl ester hydrobromide (272 mg, 0.85 mmol) in CH2Cl2 (12 ml). After stirring for 16 h at room temperature the mixture was diluted with CH2Cl2 (20 ml) and poured into water. The layers were separated and the aqueous layer was extracted with CH2Cl2 (20 ml×3). The combined organics were dried over MgSO4; filtered; and concentrated under reduced pressure. The residue was purified by Flash 40 chromatography using a silica gel column and eluting with 65% EtOAc/hexane to give 220 mg of the title compound as a white amorphous solid. MP 153-4° C.; MS [+1]+507.2; 1H nmr (400 MHz, CDCl3) δ0.88 (d, J=6.4 Hz, 6H), 1.53-1.66 (m, 3H), 2.21 (s, 3H), 2.66 (t, J=7.6 Hz, 2H), 3.00 (t, J=7.6 Hz, 2H), 3.49 (s, 2H), 3.68 (s, 3H), 5.15 (dt, J=6.2 and 8.7 Hz, 1H), 5.85 (s, 1H), 6.11 (d, J=8.5 Hz, 1H), 6.65 (s, 1H), 7.00 (s, 1H), 7.05-7.24 (m, 7H), 7.53 (d, 1H); Anal. calcd. for C28H34N4O5: C (66.39), H (6.76), N (11.05). Found: C (66.29), H (7.11), N (11.11).

reactant | [4-(3-o-tolyl-ureido)-phenyl]-acetic acid | 1.07 mmol, 305 mg | C1(=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)O)=O)C | C16H16N2O3
reactant | DIEA | 1.3 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBT | 0.89 mmol, 120 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.89 mmol, 170 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-[3-(1-amino-3-methyl-butyl)-isoxazol-5-yl]-propionic acid methyl ester hydrobromide | 0.85 mmol, 272 mg | Br.COC(CCC1=CC(=NO1)C(CC(C)C)N)=O
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 3-[3-(3-Methyl-1-{2-[4-(3-o-tolyl-ureido)-phenyl]-acetylamino}-butyl)-isoxazol-5-yl]-propionic acid methyl ester | 220 mg | COC(CCC1=CC(=NO1)C(CC(C)C)NC(CC1=CC=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)=O)=O | C28H34N4O5
